US04672057
Preparation of 1-methyl-1'-methoxy-2,2'-oxydiacetaldehyde (BII)
A solution of methyl-α-L-rhamnopyranoside (1.78 g, 10 mmol) in water (25 ml) was treated with sodium periodate (4.3 g) at 0° C. After 3 hours sodium hydrogen carbonate was cautiously added to neutralize the acid, the mixture was poured into ethanol (100 ml) and the insoluble material was filtered. The filtrate was concentrated to a syrup that was extracted with acetonitrile (15 ml). The extract was used for the next step without further purification.

reactant | methyl-α-L-rhamnopyranoside | 10 mmol, 1.78 g | C[C@H]1[C@@H]([C@H]([C@H]([C@@H](O1)OC)O)O)O | C7H14O5
reactant | sodium periodate | 4.3 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 25 ml | O | H2O
product | 1-methyl-1'-methoxy-2,2'-oxydiacetaldehyde | CC(COCC(=O)OC)=O | C6H10O4
